**.subckt example_por_tb vdd3v3 vdd1v8 porb_h porb_l por_l
*.opin vdd3v3
*.opin vdd1v8
*.opin porb_h
*.opin porb_l
*.opin por_l
x1 vdd3v3 vdd1v8 porb_h porb_l por_l GND example_por
V1 vdd3v3 GND PWL(0.0 0 100u 0 5m 3.3)
V2 vdd1v8 GND PWL(0.0 0 300u 0 5.3m 1.8)
**** begin user architecture code

.param mc_mm_switch=0
.lib /vezzal/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /vezzal/pdk/sky130A/libs.ref/sky130_fd_sc_hvl/spice/sky130_fd_sc_hvl.spice


.control
tran 1u 20m
plot V(vdd3v3) V(vdd1v8) V(porb_h) V(porb_l) V(por_l)
.endc

**** end user architecture code
**.ends

* expanding   symbol:  example_por.sym # of pins=6
* sym_path: /home/lanka/vezzal_test/testcases/netgen/exercise_9/xschem/example_por.sym
* sch_path: /home/lanka/vezzal_test/testcases/netgen/exercise_9/xschem/example_por.sch
.subckt example_por  vdd3v3 vdd1v8 porb_h porb_l por_l vss
*.iopin vdd3v3
*.iopin vss
*.opin porb_h
*.opin porb_l
*.opin por_l
*.iopin vdd1v8
XC1 net9 vss sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=1 m=1
XC2 vss net9 sky130_fd_pr__cap_mim_m3_2 W=30 L=30 MF=1 m=1
XM1 net3 net7 net5 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM2 net2 net3 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XR1 net4 vdd3v3 vss sky130_fd_pr__res_xhigh_po_0p69 L=500 mult=1 m=1
XM4 net5 net6 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM5 net3 net3 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.8 W=14 nf=7 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XR2 vss net4 vss sky130_fd_pr__res_xhigh_po_0p69 L=150 mult=1 m=1
XM7 net2 net2 net1 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM8 net1 net1 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=14 nf=7 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM10 net7 net4 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM9 net7 net7 net6 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM11 net6 net6 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=16 nf=8 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM12 net8 net1 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM13 net9 net2 net8 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.8 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XR3 vss vss vss sky130_fd_pr__res_xhigh_po_0p69 L=25 mult=2 m=2
x2 net10 vss vss vdd3v3 vdd3v3 porb_h sky130_fd_sc_hvl__buf_8
x3 net10 vss vss vdd1v8 vdd1v8 porb_l sky130_fd_sc_hvl__buf_8
x4 net10 vss vss vdd1v8 vdd1v8 por_l sky130_fd_sc_hvl__inv_8
x5 net9 vss vss vdd3v3 vdd3v3 net10 sky130_fd_sc_hvl__schmittbuf_1
.ends

.GLOBAL GND
** flattened .save nodes
.end
